US09023760B2
Step 2: Preparation of 1-methoxy-4-methylamino-piperidine-4-carboxylic acid methyl ester (compound P5.4)
To a suspension of 1-methoxy-4-methylamino-piperidine-4-carboxylic acid (2.0 g, 10.63 mmol) in methanol (50 ml) at 0-10° C. was added thionyl chloride (2.29 ml, 3.76 g, 31.57 mmol) and the reaction mixture was heated at reflux overnight. After cooling, the mixture was concentrated, the residue diluted with ice water (20 ml) and neutralised with aqueous sodium bicarbonate. The aqueous phase was extracted with ethyl acetate (4×25 ml) and dichloromethane (4×50 ml), the combined organic layers washed with aqueous sodium bicarbonate (15 ml) and brine (15 ml), dried over sodium sulfate and concentrated. Yield: 0.76 g of 1-methoxy-4-methylamino-piperidine-4-carboxylic acid methyl ester (compound P5.4) as a viscous, orange oil. The spectral data of this crude material were identical to those described above under preparation example 6, step 2.

reactant | 1-methoxy-4-methylamino-piperidine-4-carboxylic acid | 10.63 mmol, 2.0 g | CON1CCC(CC1)(C(=O)O)NC | C8H16N2O3
reactant | thionyl chloride | 31.57 mmol, 2.29 ml, 3.76 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 ml | CO | CH4O
product | 1-methoxy-4-methylamino-piperidine-4-carboxylic acid methyl ester | COC(=O)C1(CCN(CC1)OC)NC | C9H18N2O3
